US08912169B2
Step 3: 3-[2-{2-[4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester
Prepared from 2-Methoxy-3-[2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-2-(trimethylsilanyl-amino)-ethyl]-benzoic acid tert-butyl ester and [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid following the procedure described in Step 1 of Example 1. The crude product was purified by flash chromatography on silica gel (0-100% EtOAc/hexane). ESI-MS m/z 681 (MH)+.

reactant | 2-Methoxy-3-[2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-2-(trimethylsilanyl-amino)-ethyl]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(N[Si](C)(C)C)B1OC2(C3C(C(CC2O1)C3)(C)C)C)OC)=O | C27H44BNO5Si
reactant | [4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetic acid | C(C)(C)(C)OC(=O)NCC1CCC(CC1)=CC(=O)O | C14H23NO4
product | 3-[2-{2-[4-(tert-Butoxycarbonylamino-methyl)-cyclohexylidene]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(C=C3CCC(CC3)CNC(=O)OC(C)(C)C)=O)OC)=O | C38H57BN2O8
